US06559172B1
Preparation of Dimethyl-{4-[(4R*,5R*)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazol-5-yl]-phenyl}-amine
In a manner analogous to Preparation 1, 4-dimethylaminobenzaldehyde (0.19 g, 1.26 mmol), tosylmethylisocyanide (0.23 g, 1.20 mmol) and NaCN (5.9 mg, 0.12 mmol) gave the desired compound as a tan solid. MS(ES+) m/z 345.5 (M+H+).

reactant | 1, 4-dimethylaminobenzaldehyde | 1.26 mmol, 0.19 g | CNC1(C=O)CC=C(C=C1)NC | C9H14N2O
reactant | tosylmethylisocyanide | 1.20 mmol, 0.23 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | NaCN | 0.12 mmol, 5.9 mg | [C-]#N.[Na+]
product | Dimethyl-{4-[(4R*,5R*)-4-(toluene-4-sulfonyl)-4,5-dihydro-oxazol-5-yl]-phenyl}-amine | CN(C1=CC=C(C=C1)[C@@H]1[C@H](N=CO1)S(=O)(=O)C1=CC=C(C=C1)C)C | C18H20N2O3S
